US08604211B2
Preparation of N-(cyclopropylmethyl)-5-(3-pyridyl)-1,3,4-thiadiazol-2-amine
A suspension of cyclopropylmethanamine (0.528 g, 0.743 mmol), 2-bromo-5-(3-pyridyl)-1,3,4-thiadiazole hydrobromide (0.2 g, 0.619 mmol) and triethylamine (0.3 ml, 2.16 mmol) in ethanol (20 mL) was heated to 125° C. for 42 minutes in a microwave reaction vessel, cooled to room temperature, concentrated under reduced pressure and resuspended in 2:1 saturated aqueous sodium bicarbonate:ethyl acetate (100 mL). The suspension was shaken vigorously and the organic extract collected and washed with water (50 mL) and brine (30 mL) before drying over magnesium sulfate. The solution was concentrated under reduced pressure and purified by silica column chromatography, eluting with a gradient of methanol in ethyl acetate. The slower eluting fraction was concentrated under reduced pressure to afford the title compound as a yellow solid (38 mg, 26%): mp 162-165° C.; IR (ATR) 1573(s), 1549(s), 1464(m), 1063(m) cm−1; 1H NMR (400 MHz, CDCl3) δ 8.97 (d, J=1.6 Hz, 1H), 8.63 (dd, J=4.8, 1.6 Hz, 1H), 8.18 (ddd, J=8.0, 2.2, 1.7 Hz, 1H), 7.38 (ddd, J=8.0, 4.8, 0.7 Hz, 1H), 5.68 (s, 1H), 3.29 (d, J=7.1 Hz, 2H), 1.26-1.09 (m, 1H), 0.72-0.53 (m, 2H), 0.42-0.25 (m, 2H); 13C NMR (101 MHz, CDCl3) δ 170.01, 154.19, 150.61, 147.94, 133.64, 127.47, 123.76, 52.20, 10.76, 3.73; ESIMS m/z 231.8 ([M−H]−).

reactant | cyclopropylmethanamine | 0.743 mmol, 0.528 g | C1(CC1)CN | C4H9N
reactant | 2-bromo-5-(3-pyridyl)-1,3,4-thiadiazole hydrobromide | 0.619 mmol, 0.2 g | Br.BrC=1SC(=NN1)C=1C=NC=CC1
reactant | triethylamine | 2.16 mmol, 0.3 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | N-(cyclopropylmethyl)-5-(3-pyridyl)-1,3,4-thiadiazol-2-amine | 38 mg, 26% | C1(CC1)CNC=1SC(=NN1)C=1C=NC=CC1 | C11H12N4S
